US06479424B1
A 1 L three-neck round bottom flask equipped with a condenser, mechanical stirrer, nitrogen inlet and a thermometer was charged with 5,6-dimethyl-1-indanol (41.25 g, 0.254 mol), toluene (250 mL), pyridine (250 mL, 3.1 mol), and p-toluenesulfonyl chloride (52.0 g, 0.273 mol). The mixture was heated to reflux and dehydration was monitored by GC. After 2.5 hours at reflux the reaction mixture was cooled, quenched in 5% HCl (1.2 L ice-water), and extracted with diethyl ether (500 mL). The organic phase was washed with 5% aqueous sodium bicarbonate, water, and then dried over anhydrous magnesium sulfate. Rotary evaporation followed by vacuum distillation (79° C./0.5 mm Hg) yielded 5,6-dimethylindene (30.1 g, 98+% purity by GC) as white crystalline solid (mp 34-35° C.). 1HNMR (CD2Cl2, 500 MHz) δ7.24 (s, 1H); 7.16 (s, 1H); 6.80 (m, 1H); 6.45 (m, 1H); 3.32 (s, 2H); 2.28 (s, 6H).

reactant | 5,6-dimethyl-1-indanol | 0.254 mol, 41.25 g | CC=1C=C2CCC(C2=CC1C)O | C11H14O
reactant | pyridine | 3.1 mol, 250 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 0.273 mol, 52.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 5,6-dimethylindene | 30.1 g | CC=1C=C2C=CCC2=CC1C | C11H12
